US04342761
Erythro 2-([2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]piperid-4-yl)-1,2-benzoisothiazolin-3-one-1,1-dioxide
Erythro 1-(1,4-Benzodioxan-2-yl)-2-bromoethanol (1.29 g, 0.005 m), 2-(piperid-4-yl)-1,2-benzisothiazolin-3-one-1,1-dioxide hydrochloride (1.44 g, 0.005 m) and triethylamine (4 cm3) were refluxed for 24 hours in ethanol (50 cm3). The solution was cooled, the solvent evaporated and the residue treated with water. The product was extracted with chloroform, washed with water and dried (MgSO4). Evaporation gave a gum which was dissolved in isopropyl alcohol. The crystallised solid was collected by filtration, dissolved in ethanol and treated with ethanolic HCl. Ether was added and the resulting precipitate filtered off and recrystallised from isopropyl alcohol to give the title compound as the hydrochloride salt, m.p. 216°-218° C.

reactant | 1-(1,4-Benzodioxan-2-yl)-2-bromoethanol | 1.29 g | O1C(COC2=C1C=CC=C2)C(CBr)O | C10H11BrO3
reactant | 2-(piperid-4-yl)-1,2-benzisothiazolin-3-one-1,1-dioxide hydrochloride | 1.44 g | Cl.N1CCC(CC1)N1S(C2=C(C1=O)C=CC=C2)(=O)=O
reactant | triethylamine | 4 cm3 | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-([2-(1,4-benzodioxan-2-yl)-2-hydroxyethyl]piperid-4-yl)-1,2-benzoisothiazolin-3-one-1,1-dioxide | O1C(COC2=C1C=CC=C2)C(CN2CCC(CC2)N2S(C1=C(C2=O)C=CC=C1)(=O)=O)O | C22H24N2O6S
